US09290467B2
A) [(S)-2-(4-Allyloxy-phenyl)-1-(1-cyano-cyclopropylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester
(S)-3-(4-(allyloxy)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid (5 g, 15.6 mmol, Eq: 1.00) was dissolved in DMF (30 ml). HATU (11.8 g, 31.1 mmol, Eq: 2.00), Hunig's Base (4.02 g, 5.43 ml, 31.1 mmol, Eq: 2.00) and 1-amino-1-cyclopropanecarbonitrile hydrochloride (2.21 g, 18.7 mmol, Eq: 1.20) were added to the above suspension and stirred at 25° C. for 24 h. The reaction mixture was poured into 0.1M HCl (250 mL) and extracted with AcOEt (3×75 mL). The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was dissolved in CH2Cl2 (10 mL), 2 minutes later it began to precipitate. The suspension was filtered. The filtered solution was purified by flash chromatography (silica gel, 80 g, 0% to 90% AcOEt in heptane) to yield a light yellow solid (3.0 g; 50%). m/z=286.1 [M+H-Boc]+.

reactant | (S)-3-(4-(allyloxy)phenyl)-2-(tert-butoxycarbonylamino)propanoic acid | 15.6 mmol, 5 g | C(C=C)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H23NO5
reactant | HATU | 31.1 mmol, 11.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's Base | 31.1 mmol, 5.43 ml, 4.02 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-amino-1-cyclopropanecarbonitrile hydrochloride | 18.7 mmol, 2.21 g | Cl.NC1(CC1)C#N
reactant | HCl | 0.1M, 250 mL | Cl | ClH
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | [(S)-2-(4-Allyloxy-phenyl)-1-(1-cyano-cyclopropylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC=C)C(NC1(CC1)C#N)=O)=O | C21H27N3O4
